US07253286B2
N6-Methyl-7-(benzyloxy)-4-chloro-6-quinolinecarboxamide
After adding thionyl chloride (12 ml) and a catalytic amount of dimethylformamide to phenyl 7-(benzyloxy)-4-oxo-1,4-dihydro-6-quinolinecarboxylate (1.20 g, 3.23 mmol), the mixture was heated to reflux for 2 hours while stirring. The reaction solution was concentrated under reduced pressure and azeotropically distilled twice with toluene, the residue was suspended in dimethylformamide (20 ml), a 40% methylamine-methanol solution (5 ml) was gradually added while cooling in an ice water bath, and the mixture was stirred for 1 hour. The reaction solution was distributed between ethyl acetate-tetrahydrofuran (1:1) and water, and the organic layer was washed with saturated aqueous ammonium chloride solution, water and saturated brine and then dried over anhydrous sodium sulfate. The solvent was distilled off, diethyl ether and then hexane were added for crystallization, and the crystals were filtered out and blow-dried to obtain the title compound (947mg, 2.90 mmol, 89.7%) as light yellow crystals.

reactant | thionyl chloride | 12 ml | S(=O)(Cl)Cl | Cl2OS
reactant | phenyl 7-(benzyloxy)-4-oxo-1,4-dihydro-6-quinolinecarboxylate | 3.23 mmol, 1.20 g | C(C1=CC=CC=C1)OC1=C(C=C2C(C=CNC2=C1)=O)C(=O)OC1=CC=CC=C1 | C23H17NO4
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | N6-Methyl-7-(benzyloxy)-4-chloro-6-quinolinecarboxamide | 2.90 mmol, 947mg, 89.7% | CNC(=O)C=1C=C2C(=CC=NC2=CC1OCC1=CC=CC=C1)Cl | C18H15ClN2O2
